### PR TITLE
Add Erdős Problem 543 (random subset sums in abelian groups), link the formal proof

### LINKED ISSUE #780: Erdős Problem 543
### What is the conjecture
    
https://www.erdosproblems.com/543

  Define $f(N)$ be the minimal $k$ such that the following holds: if $G$ is an abelian group of size $N$ and $A\subseteq G$ is a random set of size $k$ then, with probability $\geq 1/2$, all elements of $G$ can be written as $\sum_{x\in S}x$ for some $S\subseteq A$. Is 
$$f(N) \leq \log_2 N+o(\log\log N)?$$
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #780.

### What changed
Adds `FormalConjectures/ErdosProblems/543.lean` with `IsComplete A` (every group element is a subset sum of `A`), `completeProbability G k` (probability that a uniformly random `k`-subset is complete) and `f N` (the least `k` such that this probability is `≥ 1/2` for every abelian group of order `N`):
- `erdos_543` (`research solved`, `answer(False)`): `f(N) ≤ log₂ N + o(log log N)` is false (Ma–Tang / ChatGPT, confirming Erdős' belief). Linked to plby/lean-proofs `Erdos543.not_erdos_543` (Codex and GPT-5.6 Sol; 26 Mathlib-only files).
- Sorry'd literature variants: Erdős–Rényi `f(N) ≤ log₂ N + O(log log N)` and Erdős–Hall's refutation of `log₂ N + o(log log log N)`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos543.not_erdos_543` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby phrases "probability ≥ 1/2" as a counting inequality; the bridge shows the two `sInf` definitions of `f` agree since both thresholds are `≤ N`):

<details>
<summary>Bridge</summary>

```lean
open Filter Finset Real

namespace Bridge543

open Erdos543Plby in
lemma halfComplete_iff (G : Type) [AddCommGroup G] [Fintype G] {k : ℕ} (hk : k ≤ Fintype.card G) :
    1 / 2 ≤ Erdos543.completeProbability G k ↔ Model.HalfComplete G k := by
  classical
  have hfilter : ((univ : Finset G).powersetCard k).filter Erdos543.IsComplete =
      Model.goodSets (univ : Finset G) Model.SubsetSumComplete k := by
    unfold Model.goodSets
    exact Finset.filter_congr fun _ _ => Iff.rfl
  have hpos : (0 : ℝ) < ((univ : Finset G).powersetCard k).card := by
    rw [Finset.card_powersetCard, Finset.card_univ]
    exact_mod_cast Nat.choose_pos hk
  unfold Erdos543.completeProbability Model.HalfComplete Model.totalCount Model.completeCount
  rw [hfilter, le_div_iff₀ hpos]
  constructor
  · intro h
    have : (((univ : Finset G).powersetCard k).card : ℝ) ≤
        2 * (Model.goodSets (univ : Finset G) Model.SubsetSumComplete k).card := by
      linarith
    exact_mod_cast this
  · intro h
    have : (((univ : Finset G).powersetCard k).card : ℝ) ≤
        2 * (Model.goodSets (univ : Finset G) Model.SubsetSumComplete k).card := by
      exact_mod_cast h
    linarith

open Erdos543Plby in
lemma mem_iff {N k : ℕ} (hk : k ≤ N) :
    k ∈ {k | ∀ (G : Type) [AddCommGroup G] [Fintype G], Fintype.card G = N →
      1 / 2 ≤ Erdos543.completeProbability G k} ↔ Model.UniversallyHalfComplete N k := by
  simp only [Set.mem_ofPred_eq, Model.UniversallyHalfComplete]
  refine forall_congr' fun G => ?_
  refine forall_congr' fun _ => ?_
  refine forall_congr' fun _ => ?_
  refine forall_congr' fun hG => ?_
  exact halfComplete_iff G (hG ▸ hk)

open Erdos543Plby in
lemma f_eq (N : ℕ) : Erdos543.f N = Model.universalF N := by
  set S := {k | ∀ (G : Type) [AddCommGroup G] [Fintype G], Fintype.card G = N →
      1 / 2 ≤ Erdos543.completeProbability G k} with hS
  have hN : N ∈ S := (mem_iff le_rfl).2 (Model.universallyHalfComplete_card N)
  have h1 : sInf S ≤ N := Nat.sInf_le hN
  have h2 : Model.universalF N ≤ N := Model.universalF_le_card N
  have hmem1 : sInf S ∈ S := Nat.sInf_mem ⟨N, hN⟩
  have hmem2 : Model.UniversallyHalfComplete N (Model.universalF N) := Model.universalF_spec N
  apply le_antisymm
  · exact Nat.sInf_le ((mem_iff h2).2 hmem2)
  · exact Model.universalF_min ((mem_iff h1).1 hmem1)

theorem erdos_543_bridge : type_of% Erdos543.erdos_543 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨o, ho, hf⟩
  apply Erdos543Plby.not_erdos_543
  refine ⟨o, ho.tendsto_div_nhds_zero, ?_⟩
  filter_upwards [hf] with N hN
  rw [← f_eq]
  exact hN

#print axioms Erdos543Plby.not_erdos_543
#print axioms erdos_543_bridge

end Bridge543
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«543»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/543.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+
+open Filter Finset Real
+
+namespace Erdos543
+
+variable {G : Type*} [AddCommGroup G] [Fintype G]
+
+/-- `A` is *complete* if all elements of `G` can be written as $\sum_{x\in S}x$ for some
+$S\subseteq A$. -/
+def IsComplete (A : Finset G) : Prop := ∀ g : G, ∃ S ⊆ A, ∑ x ∈ S, x = g
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/543.lean:44]: let's just use as inlined  `subsetSums A = univ`?

File: FormalConjectures/ErdosProblems/543.lean [hunk 2]
```diff
@@ -0,0 +1,91 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/543.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
here and everywhere
